US07741327B2
A solution of (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide (360 mg, 0.7 mmol) in tetrahydrofuran (15 mL) was treated with 2N aqueous hydrochloric acid (7.5 mL) and stirred at room temperature for 2.5 h. At this time the mixture was partitioned between ethyl acetate and water. The layers were separated and the aqueous layer was extracted with ethyl acetate. The combined organic layers were washed with brine and dried over sodium sulfate. The mixture was filtered and concentrated in vacuo and the residue was purified by ISCO flash chromatography (RediSep silica column 12 g, 30% to 80% (10% methanol/dichloromethane)hexanes) which afforded (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide (285 mg, 86%) as a white fluffy solid: HR-ES-MS (m/z) calculated for C23H29ClN4O5 [M+H]+ 477.1899, observed 477.1897. 1H NMR showed mixture of diastereomers (400 MHz, DMSO-d6) δ ppm 0.77-0.96 (m, 6H), 1.04-1.93 (m, 5H), 3.23-3.33 (m, 2H), 3.77 (br. s., 1H), 3.82-3.91 (m, 1H), 4.04-4.14 (m, 1H), 4.11-4.29 (m, 1H), 4.58, 4.63 (2×d, J=18.7 Hz, 1H), 4.71 (br. s., 1H), 4.79, 4.81 (2×s, 1H), 4.86-4.97 (m, 2H), 6.42 (br. s., 1H), 7.37 (t, J=7.7 Hz, 1H), 7.46 (t, J=7.5 Hz, 1H), 7.49-7.56 (m, 2H), 7.65 (d, J=7.9 Hz, 1H), 10.77, 10.79 (2×s, 1H)

reactant | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid [1-((R)-2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-1H-pyrazol-3-yl]-amide | 0.7 mmol, 360 mg | CC1(OC[C@H](O1)CN1N=C(C=C1)NC([C@H](CC(CC)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)C | C26H33ClN4O5
reactant | hydrochloric acid | 2N, 7.5 mL | Cl | ClH
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
product | (S)-2-[4-(2-chloro-phenoxy)-2-oxo-2,5-dihydro-pyrrol-1-yl]-4-methyl-hexanoic acid [1-((R)-2,3-dihydroxy-propyl)-1H-pyrazol-3-yl]-amide | 285 mg, 86% | O[C@H](CN1N=C(C=C1)NC([C@H](CC(CC)C)N1C(C=C(C1)OC1=C(C=CC=C1)Cl)=O)=O)CO | C23H29ClN4O5
